US05464811
Potassium carbonate (4.6 g, 33.3 mmol) was added to a solution of N-(2-fluoro-4-chloro-5-methoxycarbonyloxyphenyl)-3,4,5,6-tetrahydrophthalimide (11.8 g, 33.4 mmol) obtained as described above in methanol (100 ml), followed by stirring for 5 hours under refluxing. After completion of the reaction, the mixture was poured into 1N hydrochloric acid (200 ml), and the mixture was extracted with ethyl acetate (100 ml×3 times). The organic layer was washed with water, dried, and the solvent was distilled off under reduced pressure to obtain a crude product (9.4 g). The product was recrystallized from ether/hexane to obtain N-(2-fluoro-4-chloro-5-hydroxypheyl) 3,4,5,6-tetrahydrophthalimide as a white solid (6.7 g 22.7 mmol, 67.8% yield).

reactant | Potassium carbonate | 33.3 mmol, 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-fluoro-4-chloro-5-methoxycarbonyloxyphenyl)-3,4,5,6-tetrahydrophthalimide | 33.4 mmol, 11.8 g | FC1=C(C=C(C(=C1)Cl)OC(=O)OC)N1C(C2=C(C1=O)CCCC2)=O | C16H13ClFNO5
reactant | hydrochloric acid | 1N, 200 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | N-(2-fluoro-4-chloro-5-hydroxypheyl) 3,4,5,6-tetrahydrophthalimide | 67.8% yield | FC1=C(C=C(C(=C1)Cl)O)N1C(C2=C(C1=O)CCCC2)=O | C14H11ClFNO3
